US08686147B2
8g) Isochroman-1-one
To a solution of isochroman (5.0 g; 37.3 mmol) in dichloromethane (465 ml) stirred at room temperature was added, over 15 minutes, a homogeneous mixture of potassium permanganate and manganese dioxide (74.60 g) in a 1:3 ratio. The suspension obtained was left for 18 hours at room temperature. The suspension was filtered through a Büchner filter. The solvent was evaporated off under reduced pressure to give 4.42 g of crude product (80%), which was used for the following reaction without further purification.

reactant | isochroman | 37.3 mmol, 5.0 g | C1OCCC2=CC=CC=C12 | C9H10O
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | dichloromethane | 465 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 74.60 g | [O-2].[O-2].[Mn+4]
product | Isochroman-1-one | 4.42 g, 80% | C1(OCCC2=CC=CC=C12)=O | C9H8O2
